US04643849
In a mixed solvent of 20 ml of methylene chloride and 10 ml of methanol was dissolved 2.4 g of 5-(3-methoxyphenyl)-2-nitromethyleneoxazolidine at room temperature, and a solution of 2.0 g of 5-(dimethylamino)methyl-2-mercaptomethyl-4-methylthiophene in 5 ml of methanol was added thereto in a nitrogen atmosphere. Then, the solution of 0.5 g of ethyleneimine in 5 ml of methanol was added dropwise at the same temperature over a period of 10 minutes. After addition, the resulting solution was subjected to reaction with stirring for 5 hours. After the completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue obtained was purified by a column chromatography (Wako Silica Gel C-200, eluent; chloroform:ethanol=30:1 by volume) to obtain 4.0 g (yield 83.5%) of oily N-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethyl}-N'-[2-(3-methoxyphenyl)-2-hydroxyethyl]-2-nitro-1,1-ethenediamine.

reactant | 5-(3-methoxyphenyl)-2-nitromethyleneoxazolidine | 2.4 g | COC=1C=C(C=CC1)C1CNC(O1)=C[N+](=O)[O-] | C11H12N2O4
reactant | 5-(dimethylamino)methyl-2-mercaptomethyl-4-methylthiophene | 2.0 g | CN(C)CC1=C(C=C(S1)CS)C | C9H15NS2
reactant | ethyleneimine | 0.5 g | C1CN1 | C2H5N
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 10 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
solvent | methanol | 5 ml | CO | CH4O
product | N-{2-[[5-(dimethylamino)methyl-4-methyl-2-thienyl]methylthio]ethyl}-N'-[2-(3-methoxyphenyl)-2-hydroxyethyl]-2-nitro-1,1-ethenediamine | 4.0 g, yield 83.5% | CN(C)CC1=C(C=C(S1)CSCCNC(=C[N+](=O)[O-])NCC(O)C1=CC(=CC=C1)OC)C | C22H32N4O4S2
